US08293763B2
Step 2: 8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide
8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide (40 mg, 0.09 mmol) was dissolved in methanol and loaded onto an Isolute® SCX-2 cartridge (5 g). The cartridge was then washed with methanol and the desired product was subsequently eluted using 2M NH3 in MeOH. Appropriate fractions were combined and concentrated to give a residue that was subjected to flash chromatography (Si-PPC, gradient 0% to 20%, methanol in dichloromethane) to afford the title compound as a pale yellow solid (11 mg, 29%). LCMS (method A): RT=6.06 min, [M+H]+=409/411. 1H NMR (CD3OD): 8.27 (1 H, d, J=0.85 Hz), 7.79 (1 H, dd, J=7.39, 0.97 Hz), 7.42 (1 H, dd, J=10.00, 2.19 Hz), 7.31 (1 H, ddd, J=8.53, 2.20, 1.19 Hz), 7.12 (1 H, t, J=8.60 Hz), 6.79-6.73 (1 H, m), 6.65 (1 H, s), 3.97 (2 H, t, J=4.69 Hz), 3.73 (2 H, t, J=4.68 Hz).

reactant | 8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.09 mmol, 40 mg | C(=C)OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)F | C18H16BrFN4O3
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide | 11 mg, 29% | OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)F | C16H14BrFN4O3
